US06306895B1
To an ice cooled solution of (2S)-6-benzyloxy-1-(4-fluorophenoxy)-hex-4-yn-2-ol (2 g, 6.4 mmol) in dry CH2Cl2 (8 ml) was added N-ethyldiisopropylamine (1.7 ml, 9.5 mmol) and stirred for 10 minutes MEM-chloride (1.1 ml, 9.5 mmol) was added to the solution at 0° C. and stirred for 3 h at room temperature. The solvent was concentrated and the residue purified on a silica gel column using EtOAc-light petroleum (1:4) as eluent to yield (2S)-6-benzyloxy-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hex-4-yne (2.2 g, 85%) as a yellow colour liquid. TLC:ethyl acetate-light petroleum (1:3), Rf=0.5 1H NMR (CDCl3, 200 MHz): δ 2.65-2.75 (m, 2H), 3.39 (s, 3H), 3.55 (t, J=4.8 Hz, 2H), 3.78 (t, J=4.8 Hz, 2H), 4.11 (s, 2H), 4.16 (m, 3H), 4.56 (s, 2H), 4.89 (s, 2H), 6.8-7.02 (m, 4H), 7.3-7.35 (m, 5H).

reactant | (2S)-6-benzyloxy-1-(4-fluorophenoxy)-hex-4-yn-2-ol | 6.4 mmol, 2 g | C(C1=CC=CC=C1)OCC#CC[C@@H](COC1=CC=C(C=C1)F)O | C19H19FO3
reactant | N-ethyldiisopropylamine | 9.5 mmol, 1.7 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | MEM-chloride | 9.5 mmol, 1.1 ml | COCCOCCl | C4H9ClO2
solvent | CH2Cl2 | 8 ml | C(Cl)Cl | CH2Cl2
product | (2S)-6-benzyloxy-1-(4-fluorophenoxy)-2-(methoxyethoxymethyloxy)-hex-4-yne | 2.2 g, 85% | C(C1=CC=CC=C1)OCC#CC[C@@H](COC1=CC=C(C=C1)F)OCOCCOC | C23H27FO5
